US06916822B2
(c) 1-(4-Diethylcarbamoylphenyl)-1-(2-methoxyphenyl)methyl alcohol
A solution of 2-bromoanisole (12.1 ml) dissolved in tetrahydrofuran (200 ml) was added with magnesium (2.368 g) and stirred at 60° C. for 1 hour to prepare a Grignard reagent. This Grignard reagent was added with a solution of 4-diethylcarbamoylbenzaldehyde (10.0 g) dissolved in tetrahydrofuran (200 ml) with ice cooling and stirred at room temperature for 1 hour. The reaction mixture was added with saturated aqueous ammonium chloride (400 ml) with ice cooling to quench the reaction and then extracted twice with dichloromethane (400 ml). The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: hexane:ethyl acetate=1:1) to obtain 14.14 g of the title compound. Yield: 93%.

reactant | 2-bromoanisole | 12.1 ml | BrC1=C(C=CC=C1)OC | C7H7BrO
reactant | magnesium | 2.368 g | [Mg] | Mg
reactant | 4-diethylcarbamoylbenzaldehyde | 10.0 g | C(C)N(C(=O)C1=CC=C(C=O)C=C1)CC | C12H15NO2
reactant | ammonium chloride | 400 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1-(4-Diethylcarbamoylphenyl)-1-(2-methoxyphenyl)methyl alcohol | 14.14 g, Yield: 93% | C(C)N(C(=O)C1=CC=C(C=C1)C(C1=C(C=CC=C1)OC)O)CC | C19H23NO3
